US08530388B2
Tin(II)chloride (16.0 g, 0.10 mol) is added in one portion to a solution of crude 5-bromo-2-cyclopropylnitrobenzene (8.68 g) in ethanol (190 ml) and water (1.9 ml). The reaction mixture is stirred at room temperature overnight, followed by addition of further tin(II)chloride (28 g, 0.175 mol) and additional stirring overnight. After concentration in vacuo ice is added, and the solution is basified with 2M aqueous sodium hydroxide. After extraction with ethyl acetate (×2) the organic phase is washed again with 2M aqueous sodium hydroxide, then also distilled water and brine. After drying over magnesium sulfate the solution is concentrated in vacuo to give a brown oil which is purified by flash column chromatography on silica gel (9:1 isohexane/ethyl acetate eluant) to afford 5-bromo-2-cyclopropylaniline as a brown oil.

reactant | Tin(II)chloride | 0.10 mol, 16.0 g | [Sn](Cl)Cl
reactant | 5-bromo-2-cyclopropylnitrobenzene | 8.68 g | BrC=1C=CC(=C(C1)[N+](=O)[O-])C1CC1 | C9H8BrNO2
reactant | tin(II)chloride | 0.175 mol, 28 g | [Sn](Cl)Cl
solvent | ethanol | 190 ml | C(C)O | C2H6O
solvent | water | 1.9 ml | O | H2O
product | 5-bromo-2-cyclopropylaniline | BrC=1C=CC(=C(N)C1)C1CC1 | C9H10BrN
